US08859588B2
Naphthalene-1-carboxylic acid [2-methyl-6-((2S,3′S)-2-methyl-[1,3′]bipyrrolidinyl-1′-yl)-pyridin-3-yl]-amide
To a solution of 2-methyl-6-((2S,3′S)-2-methyl-[1,3′]bipyrrolidinyl-1′-yl)-pyridin-3-ylamine (0.025 g, 0.096 mmol) in dichloromethane (3 mL) and pyridine (0.5 mL) was added 1-naphthoyl chloride (0.055 g, 0.288 mmol). The reaction mixture was allowed to stir for 16 hours at room temperature. The reaction mixtures were filtered through a 2.0 g Varian Bond Elut SCX (stong cation-exchange) cartridge eluting with 20 mL of methanol, followed by 7N ammonia in methanol (20 mL), and concentrated under vacuum. The crude product was purified over a silica gel column eluting with methanol in dichloromethane (0-10%) over 30 minutes to obtain 0.0247 g (62%) of the compound.

reactant | 2-methyl-6-((2S,3′S)-2-methyl-[1,3′]bipyrrolidinyl-1′-yl)-pyridin-3-ylamine | 0.096 mmol, 0.025 g | CC1=NC(=CC=C1N)N1C[C@H](CC1)N1[C@H](CCC1)C | C15H24N4
reactant | 1-naphthoyl chloride | 0.288 mmol, 0.055 g | C1(=CC=CC2=CC=CC=C12)C(=O)Cl | C11H7ClO
solvent | dichloromethane | 3 mL | ClCCl | CH2Cl2
solvent | pyridine | 0.5 mL | N1=CC=CC=C1 | C5H5N
product | Naphthalene-1-carboxylic acid [2-methyl-6-((2S,3′S)-2-methyl-[1,3′]bipyrrolidinyl-1′-yl)-pyridin-3-yl]-amide | 0.0247 g, 62% | CC1=NC(=CC=C1NC(=O)C1=CC=CC2=CC=CC=C12)N1C[C@H](CC1)N1[C@H](CCC1)C | C26H30N4O
